US07666864B2
5-Bromo-2-isopropenyl-pyridine was prepared according to the scheme shown in FIG. 9. In the sealed round bottom flask, 2-Iodo-5-bromopyridine (4.34 g, 15.3 mmol), isopropenylboronic acid pinacol ester (2.57 g, 15.3 mmol), PdCl2(dppf) (1.87 g, 2.3 mmol) and potassium phosphate (8.2 g, 38 mmol) were dissolved in 25 mL DME and 8 mL water. The resulting solution was stirred at 80° C. for 3 hours and was then cooled down to room temperature. After separation, the aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine and dried over Na2SO4. After removing the solvent, fairly pure product (about 3.0 g) was obtained as yellow solid, which was directly used for next step without further purification. ESI MS m/z 198, 200 (M+H).

reactant | 2-Iodo-5-bromopyridine | 15.3 mmol, 4.34 g | IC1=NC=C(C=C1)Br | C5H3BrIN
reactant | isopropenylboronic acid pinacol ester | 15.3 mmol, 2.57 g | C(=C)(C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
reactant | potassium phosphate | 38 mmol, 8.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DME | 25 mL | COCCOC | C4H10O2
solvent | water | 8 mL | O | H2O
catalyst | PdCl2(dppf) | 2.3 mmol, 1.87 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Bromo-2-isopropenyl-pyridine | BrC=1C=CC(=NC1)C(=C)C | C8H8BrN
